US07435837B2
Treatment of (±)-[5-chloro-7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.00 g, 2.24 mmol) with sodium azide (0.93 g, 14.3 mmol) generally according to the procedure described for Intermediate 98 provided 0.41 g of (±)-2-(azidomethyl)-5-chloro-7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with sulfided platinum on carbon (100 mg, 5 wt. %) generally according to the procedure described for Example 1 provided 0.31 g (50%) of (±)-1-[5-chloro-7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 195° C. (dec); Anal. calcd for C15H13Cl2NOHCl: C, 54.49; H, 4.27; N, 4.24. Found: C, 51.59; H, 4.21; N, 4.02.

reactant | (±)-[5-chloro-7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.24 mmol, 1.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CC(=CC=C2)Cl)Cl | C22H18Cl2O4S
reactant | sodium azide | 14.3 mmol, 0.93 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-5-chloro-7-(3-chlorophenyl)-2,3-dihydro-1-benzofuran | 0.41 g | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=CC(=CC=C2)Cl)Cl | C15H11Cl2N3O
